US07262212B2
A mixture of tert-butyl 4-[3-(tetrahydropyran-2-yloxy)phenyl]piperazine-1-carboxylate (5.20 g, 14.4 mmol) prepared in Reference Example 199 and a catalytic amount of pyridinium p-toluene sulfonate in ethanol (100 ml) was stirred at 70° C. for 1.5 hours. The reaction mixture was concentrated under reduced pressure, and methylene chloride and a saturated sodium hydrogencarbonate aqueous solution were added to the residue, which was stirred for a while. The resulting precipitates were collected by filtrasion, and then dried in vacuo to afford tert-butyl 4-(3-hydroxyphenyl)piperazine-1-carboxylate (3.73 g, yield 93%) as a a pale brown powder.

reactant | tert-butyl 4-[3-(tetrahydropyran-2-yloxy)phenyl]piperazine-1-carboxylate | 14.4 mmol, 5.20 g | O1C(CCCC1)OC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H30N2O4
reactant | pyridinium p-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | tert-butyl 4-(3-hydroxyphenyl)piperazine-1-carboxylate | 3.73 g, yield 93% | OC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O3
